US06114325
[2-[[N-[3-(Dimethylarnino)propyl]carbamoyloxy]methyl]phenyl]-N-dodecylformamide hydrochloride (Compound 9)
4N Hydrochloric acid--ethyl acetate solution (0.13 ml) was added to a solution of [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-dodecylformamide (0.200 g) in ethyl acetate (2 ml) at room temperature. After being stirred for 15 minutes, the reaction mixture was concentrated, thereby yielding 0.217 g of the aimed compound as white solid.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-dodecylformamide | 0.200 g | CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCC)C | C26H45N3O3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.13 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[3-(Dimethylarnino)propyl]carbamoyloxy]methyl]phenyl]-N-dodecylformamide hydrochloride | 0.217 g | Cl.CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCC)C | InChI=1S/C26H45N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-15-21-29(23-30)25-18-14-13-17-24(25)22-32-26(31)27-19-16-20-28(2)3;/h13-14,17-18,23H,4-12,15-16,19-22H2,1-3H3,(H,27,31);1H
